US04097264
Preparation of 2-methylamino-5-(α, α-bischloromethylethyl)-1,3,4-thiadiazole
To a stirred suspension of 34 g of 4-methylthiosemicarbazide in 50 ml of dioxane was added 60 g of α,α-bischloromethyl propionyl chloride, then heated to reflux temperature. Carefully 50 g of phosphorus oxychloride was added and heating continued until HCl evolution ceased. After cooling, the supernatant liquid was decanted from the viscous material that had separated, water was added and the mixture taken to a pH of 10 with sodium hydroxide pellets. No precipitate formed. The solution was extracted with chloroform, the extract was shaken with water then with saturated sodium chloride solution and was then dried over Na2 SO4. The chloroform was removed at reduced pressure and the residue crystallized with a mixture of methylene chloride-petroleum ether to give 27.8 g, m.p. 105°-107° (36%). An analytical sample, m.p. 108°-109°, was prepared from methylene chloride-petroleum ether.

reactant | 4-methylthiosemicarbazide | 34 g | CNC(NN)=S | C2H7N3S
reactant | α,α-bischloromethyl propionyl chloride | 60 g | ClCC(C(=O)Cl)(C)CCl | C5H7Cl3O
reactant | phosphorus oxychloride | 50 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-methylamino-5-(α, α-bischloromethylethyl)-1,3,4-thiadiazole | CNC=1SC(=NN1)C(C)(CCl)CCl | C7H11Cl2N3S
